US06159941
1-(3-(N-(4-Bromobenzyl)-N-(pyridin-2-yl)amino)propyl)-3-(3-(imidazol-1-yl)propyl)thiourea dihydrobromide
A solution of N-1-(4-bromobenzyl)-1-(pyrid-2-yl)propane-1,3-diamine (616 mg, 1.92 mmol) in THF (15 mL) was treated dropwise with 3-(imidazol-1-yl)propyl isothiocyanate (323 mg, 1.92 mmol) in THF (10 mL) under a nitrogen atmosphere. After stirring overnight at room temperature, the solid was filtered. Evaporation of the filtrate under reduced pressure gave a yellow oil which was dissolved in methanol and acidified with methanolic hydrogen bromide. Addition of diethyl ether afforded a cloudy solution which produced a light tan solid upon standing in the refrigerator. The solid was filtered and dried to yield 0.94 g (75%) of the title compound. Recrystallization from absolute ethanol-diethyl ether afforded an analytical sample.

reactant | 3-(imidazol-1-yl)propyl isothiocyanate | 1.92 mmol, 323 mg | N1(C=NC=C1)CCCN=C=S | C7H9N3S
reactant | hydrogen bromide | Br | BrH
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-(3-(N-(4-Bromobenzyl)-N-(pyridin-2-yl)amino)propyl)-3-(3-(imidazol-1-yl)propyl)thiourea dihydrobromide | 0.94 g, 75% | Br.Br.BrC1=CC=C(CN(C2=NC=CC=C2)CCCNC(=S)NCCCN2C=NC=C2)C=C1 | InChI=1S/C22H27BrN6S.2BrH/c23-20-8-6-19(7-9-20)17-29(21-5-1-2-10-25-21)15-4-12-27-22(30)26-11-3-14-28-16-13-24-18-28;;/h1-2,5-10,13,16,18H,3-4,11-12,14-15,17H2,(H2,26,27,30);2*1H
